US04766118
6-(3,4-Dihydro-4-methyl-3-oxo-1,4[2H]-benzothiazin-7-yl)-2,3,4,5-tetrahydro-5-methylpyridazin-3-one
Methyl 4-(3,4-dihydro-4-methyl-3-oxo-1,4[2H]-benzothiazin-7-yl)-4-oxo-3-methylbutyrate (1.7 g) was heated at reflux overnight with 0.3 ml of hydrazine in 50 ml of ethanol. Filtration gave a white powder which was chromatographed on silica gel eluted with 5% methanol in methylene chloride, yielding 110 mg of the named compound, mp 193°-194.5° C.

reactant | Methyl 4-(3,4-dihydro-4-methyl-3-oxo-1,4[2H]-benzothiazin-7-yl)-4-oxo-3-methylbutyrate | 1.7 g | CN1C(CSC2=C1C=CC(=C2)C(C(CC(=O)OC)C)=O)=O | C15H17NO4S
reactant | hydrazine | 0.3 ml | NN | H4N2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(3,4-Dihydro-4-methyl-3-oxo-1,4[2H]-benzothiazin-7-yl)-2,3,4,5-tetrahydro-5-methylpyridazin-3-one | 110 mg | CN1C(CSC2=C1C=CC(=C2)C=2C(CC(NN2)=O)C)=O | C14H15N3O2S
